US05811556
The (1S,2S)-6-fluoro-1-isopropyl-2-[2-(4-toluenesulfonyloxy) ethyl]-1,2,3,4-tetrahydro-naphthalene-2-ol, as described in U.S. Pat. No. 4,680,310 (also to Hoffmann-La Roche), is prepared by reacting (S)-6-fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one with tert-butyl bromoacetate in the presence of activated magnesium to form tert-butyl (1S, 2S)-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)acetate, which is reduced with lithium aluminum hydride to form (1S,2S)-6-fluoro-2-(2-hydroxyethyl)-1-isopropyl-1,2,3,4-tetrahydro-naphthalen-2-ol, and then reacted with 4-toluenesulfonyl chloride in pyridine to form the (1S,2S)-6-fluoro-1-isopropyl-2-[2-(4-toluenesulfonyloxy) ethyl]-1,2,3,4-tetrahydronaphthalene-2-ol.

reactant | (1S,2S)-6-fluoro-1-isopropyl-2-[2-(4-toluenesulfonyloxy) ethyl]-1,2,3,4-tetrahydro-naphthalene-2-ol | FC=1C=C2CC[C@]([C@H](C2=CC1)C(C)C)(O)CCOS(=O)(=O)C1=CC=C(C=C1)C | C22H27FO4S
reactant | (S)-6-fluoro-1-isopropyl-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC([C@H](C2=CC1)C(C)C)=O | C13H15FO
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | magnesium | [Mg] | Mg
product | tert-butyl (1S, 2S)-(6-fluoro-2-hydroxy-1-isopropyl-1,2,3,4-tetrahydronaphthalen-2-yl)acetate | FC=1C=C2CC[C@]([C@H](C2=CC1)C(C)C)(O)CC(=O)OC(C)(C)C | C19H27FO3
